US04772703
(B) 3-(2-quinazolinylmethoxy)benzenamine
A suspension of 10 g (0.036 mol) of 2-[(3-nitrophenoxy)methyl]quinazoline in a solution of 105 g (0.38 mol) of ferrous sulfate heptahydrate and 0.5 ml of concentrated hydrochloric acid in 175 ml of water is heated on a steam bath to 90° C. Concentrated ammonium hydroxide is added in increments of 25 ml, and 3×10 ml over a period of 15 minutes. Heating is discontinued and the reaction mixture is allowed to cool over a period of 45 minutes while vigorously stirring. The reaction mixture is diluted with 500 ml of water/500 ml of ethyl acetate and filtered through Celite. The layers are separated and the ethyl acetate solution is charcoaled, filtered and concentrated to obtain an oil, which is subjected to high pressure liquid chromatography (ethyl acetate/hexane as eluent). Fractions 14-20 are combined and concentrated to obtain 5 g (56%) of off-white crystals, m.p. 103°-7° C.

reactant | 2-[(3-nitrophenoxy)methyl]quinazoline | 0.036 mol, 10 g | [N+](=O)([O-])C=1C=C(OCC2=NC3=CC=CC=C3C=N2)C=CC1 | C15H11N3O3
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | 175 ml | O | H2O
solvent | water | 500 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-quinazolinylmethoxy)benzenamine | 5 g, 56% | N1=C(N=CC2=CC=CC=C12)COC=1C=C(C=CC1)N | C15H13N3O
